US06037356
2. 3-Benzyloxycarbonylamino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone
tert-Butyl bromoacetate (3.9 g, 20 mmol) was added to a stirred suspension of 3-benzyloxycarbonylamino-6-methyl-2-pyridinone (5.15 g, 20 mmol), as prepared in the preceding step, and Cs2CO3 (6.5 g, 20 mmol) in N,N-dimethylformamide (50 mL) and stirred at 40° C. overnight. The solid was removed by filtration and the filtrate concentrated under high vacuum. The residue was dissolved in ethyl acetate (150 mL), washed with water (2×50 mL), brine (50 mL), dried over Na2SO4 and concentrated in vacuo. After evaporating the solvent in vacuo, the residue was purified by flash column chromatography (25% ethyl acetate in hexane) to give the title compound as a white crystalline solid (4.2 g, 56%). 1H-NMR (300 MHz, CDCl3) δ7.95 (d, J=7.3 Hz, 1H), 7.76 (s, 1H), 7.37 (m, 5H), 6.09 (d, J=7.6 Hz, 1H), 5.19 (s, 2H), 4.75 (s, 2H), 2.32 (s, 3H), 1.47 (s, 9H).

reactant | tert-Butyl bromoacetate | 20 mmol, 3.9 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 3-benzyloxycarbonylamino-6-methyl-2-pyridinone | 20 mmol, 5.15 g | C(C1=CC=CC=C1)OC(=O)NC=1C(NC(=CC1)C)=O | C14H14N2O3
reactant | Cs2CO3 | 20 mmol, 6.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxycarbonylamino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 4.2 g, 56% | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C20H24N2O5
